US08748632B2
Preparation of 4-Chloro-3′-(2-cyclopentyl-1-oxoisoindolin-5-yl)biphenyl-3-carboxylic acid
5-Bromo-2-cyclopentylisoindolin-1-one (76 mg, 0.27 mmol), 3′-borono-4-chlorobiphenyl-3-carboxylic acid (90 mg, 0.33 mmol), Cs2CO3 (268 mg, 0.82 mmol) and PdCl2(PPh3)2 (22 mg, 0.03 mmol), were dissolved in a mixture of DME-H2O-EtOH (9.1 mL:3 mL:2.2 mL) and heated at 75° C. for 2 hours. The mixture was filtered through celite washed with water and filtrate was acidified with 2.5 M HCl to form the crude acid as a yellow solid. The crude residue was purified using automated prep-HPLC to yield the desired compound (14.3 mg, 12%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.24 (d, J=2.3 Hz, 1H), 7.94 (d, J=8.0 Hz, 1H), 7.78-7.54 (m, 8H), 4.84-4.75 (m, 1H), 4.43 (s, 2H), 2.08-2.00 (m, 2H), 1.83-1.62 (m, 6H). LRMS calcd. for C26H22ClNO3 [M+H]+ 432 found: 432.

reactant | 5-Bromo-2-cyclopentylisoindolin-1-one | 0.27 mmol, 76 mg | BrC=1C=C2CN(C(C2=CC1)=O)C1CCCC1 | C13H14BrNO
reactant | 3′-borono-4-chlorobiphenyl-3-carboxylic acid | 0.33 mmol, 90 mg | B(O)(O)C=1C=C(C=CC1)C1=CC(=C(C=C1)Cl)C(=O)O | C13H10BClO4
reactant | Cs2CO3 | 0.82 mmol, 268 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME H2O EtOH | 9.1 mL | COCCOC.O.CCO
catalyst | PdCl2(PPh3)2 | 0.03 mmol, 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Chloro-3′-(2-cyclopentyl-1-oxoisoindolin-5-yl)biphenyl-3-carboxylic acid | 14.3 mg, 12% | ClC1=C(C=C(C=C1)C1=CC(=CC=C1)C=1C=C2CN(C(C2=CC1)=O)C1CCCC1)C(=O)O | C26H22ClNO3
